US06821992B1
Diethyl 2-(3-chloro-5-trifluoromethyl-2-pyridyl)malonate
To a suspension of 60% sodium hydride in mineral oil (5.28 g) in dry dimethylformamide (50 ml) at 0° C. was added a solution of diethyl malonate (10 ml) in dry dimethylformamide (25 ml) and the mixture was stirred for 30 minutes. A solution of 2,3-dichloro-5-(trifluoromethyl)pyridine (9.8 ml) in dry dimethylformamide (10 ml) was added dropwise and the mixture warmed with stirring to 22° C. over 18 hours. Acetic acid (7.5 ml) in diethyl ether (20 ml) was added dropwise and the mixture was stirred until hydrogen evolution had ceased. The mixture was diluted with diethyl ether (600 ml) and then water washed (3×200 ml). The organic extract was dried (MgSO4) and evaporated onto flash silica. Chromatography over silica eluting with 0-20% diethyl ether in light petroleum (b.p. 40-60° C.) gave the title compound. 1H N.M.R. (CDCl3) δ(ppm) 1.28 (6H, t, 2×CH3CH2), 4.30 (4H, q, 2×CH2CH3), 5.24 (1H, s, CH(CO2Et)2), 7.96 (1H, s, py-H), 8.74 (1H, s, py-H).

reactant | sodium hydride | [H-].[Na+]
reactant | diethyl malonate | 10 ml | C(CC(=O)OCC)(=O)OCC | C7H12O4
reactant | 2,3-dichloro-5-(trifluoromethyl)pyridine | 9.8 ml | ClC1=NC=C(C=C1Cl)C(F)(F)F | C6H2Cl2F3N
reactant | hydrogen | [H][H] | H2
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 25 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
solvent | diethyl ether | 20 ml | C(C)OCC | C4H10O
solvent | diethyl ether | 600 ml | C(C)OCC | C4H10O
solvent | Acetic acid | 7.5 ml | C(C)(=O)O | C2H4O2
product | Diethyl 2-(3-chloro-5-trifluoromethyl-2-pyridyl)malonate | ClC=1C(=NC=C(C1)C(F)(F)F)C(C(=O)OCC)C(=O)OCC | C13H13ClF3NO4
